US09023858B2
B) 2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
To a solution of 2,2,2-trifluoroethanol (0.472 mL) in tetrahydrofuran (20 mL) was added sodium hydride (60% in oil, 0.184 g). The reaction mixture was stirred for 5 min, 2-(methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (0.88 g) was added thereto, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and recrystallized from ethyl acetate/hexane to give the title compound (0.80 g).

reactant | 2,2,2-trifluoroethanol | 0.472 mL | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 0.184 g | [H-].[Na+]
reactant | 2-(methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 0.88 g | CS(=O)C=1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H14F3N3O4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 0.80 g | FC(COC=1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F)(F)F | C17H13F6N3O4
